US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[3-(4-{[(R)-2-(tert-Butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]methyl}phenylcarbamoyl)phenyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
A solution of biphenyl-2-ylcarbamic acid 1-(2-{[3-(4-formylphenylcarbamoyl)phenyl]methylcarbamoyl}ethyl)piperidin-4-yl ester (151 mg, 0.250 mmol) and 5-[(R)-2-amino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-hydroxy-1H-quinolin-2-one acetic acid salt (98.6 mg, 0.250 mmol) in 1:1 MeOH:DCM (2.0 mL) was stirred at room temperature for 3 h. Sodium triacetoxyborohydride (159 mg, 0.750 mmol) was added and the reaction mixture was stirred at room temperature for 3 h. LC-MS (Method 10-90) showed product was present (Rt 3.32 min; m/z 923.6 [M+H]+. Saturated aqueous sodium bicarbonate solution was added and the layers were separated. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound, which was used in the next reaction without further purification.

reactant | biphenyl-2-ylcarbamic acid 1-(2-{[3-(4-formylphenylcarbamoyl)phenyl]methylcarbamoyl}ethyl)piperidin-4-yl ester | 0.250 mmol, 151 mg | C(=O)C1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)CNC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C36H36N4O5
reactant | 5-[(R)-2-amino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-hydroxy-1H-quinolin-2-one acetic acid salt | 0.250 mmol, 98.6 mg | C(C)(=O)O.NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O
reactant | Sodium triacetoxyborohydride | 0.750 mmol, 159 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[3-(4-{[(R)-2-(tert-Butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]methyl}phenylcarbamoyl)phenyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCC1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)CNC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C1=C2C=CC(NC2=C(C=C1)O)=O | C53H62N6O7Si
